US07582673B2
To a solution of 5-bromo-N-(4-fluoro-2-aminophenyl)-2-methoxybenzenesulfonamide (0.1 mmol) in pyridine (0.5 mL) and DCM (2 mL), 4-chlorobenzenesulfonyl chloride (0.12 mmol) was added. The reaction mixture was stirred at room temperature for 4 h and then diluted with ethyl acetate (10 mL). The contents were washed with 10% aqueous HCl (10 mL) and brine (10 mL), dried over sodium sulfate, and concentrated under vacuum. The residue obtained was purified by column chromatography eluting with hexanes/ethyl acetate (1:1) followed by ethyl acetate to give 43 mg of 5-bromo-N-[2-(4-chlorobenzenesulfonylamino) -4-fluorophenyl]-2-methoxybenzenesulfonamide. LC: Tr 1.10 min, MS: 551.8 (M+1)+

reactant | 5-bromo-N-(4-fluoro-2-aminophenyl)-2-methoxybenzenesulfonamide | 0.1 mmol | BrC=1C=CC(=C(C1)S(=O)(=O)NC1=C(C=C(C=C1)F)N)OC | C13H12BrFN2O3S
reactant | 4-chlorobenzenesulfonyl chloride | 0.12 mmol | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 5-bromo-N-[2-(4-chlorobenzenesulfonylamino) -4-fluorophenyl]-2-methoxybenzenesulfonamide | 43 mg | BrC=1C=CC(=C(C1)S(=O)(=O)NC1=C(C=C(C=C1)F)NS(=O)(=O)C1=CC=C(C=C1)Cl)OC | C19H15BrClFN2O5S2
